US06660744B1
Cis-3-{4-[amino(phenyl)methyl]phenyl}-1-[4-(4-methylpiperazino) cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.05 g, 0.0001 mol) and β-butyrolactone (0.009 g, 0.0001 mol) were heated in dioxane at reflux for three hours. The solvent was removed under reduced pressure and the resulting residue purified by preparative HPLC (Hypersil C18, 8 μm, 25 cm; 10-60% acetonitrile—0.1M ammonium acetate over 25 min, 21 mL/min) to yield cis-N1-[(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)(phenyl)methyl]-3-hydroxybutanamide acetate (0.027 g, 0.000042 mol) as a white solid.

reactant | Cis-3-{4-[amino(phenyl)methyl]phenyl}-1-[4-(4-methylpiperazino) cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.0001 mol, 0.05 g | NC(C1=CC=C(C=C1)C1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C)C2=CC=CC=C2 | C29H36N8
reactant | β-butyrolactone | 0.0001 mol, 0.009 g | C1(CC(C)O1)=O | C4H6O2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | cis-N1-[(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)(phenyl)methyl]-3-hydroxybutanamide acetate | 0.000042 mol, 0.027 g | C(C)(=O)O.NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)C(NC(CC(C)O)=O)C2=CC=CC=C2)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | InChI=1S/C33H42N8O2.C2H4O2/c1-22(42)20-28(43)37-30(23-6-4-3-5-7-23)24-8-10-25(11-9-24)31-29-32(34)35-21-36-33(29)41(38-31)27-14-12-26(13-15-27)40-18-16-39(2)17-19-40;1-2(3)4/h3-11,21-22,26-27,30,42H,12-20H2,1-2H3,(H,37,43)(H2,34,35,36);1H3,(H,3,4)/t22?,26-,27+,30?;
